US05883255
26A. 8-[[(Iodoacetyl)oxy]methyl]-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one
To a suspension of (±)-3-ethyl-1,11-dihydro-3-hydroxy-3H,13H-furo[3',4':6,7]indolizino[1,2-b]quinolin-13-one (320 mg, 1.00 mmol) in dry CH2Cl2 (20 mL) under argon was added over 4 min diisobutylaluminum hydride (1.10 mL of 1.0M in CH2Cl2). After 15 min iodoacetic anhydride (530 mg, 1.50 mmol) was added in one portion. After 2 h, MeOH (10 mL) was added to the reaction, and after stirring 20 min, the solvent was removed in vacuo. The residue was dissolved in CH2Cl2 and chromatographed on silica gel eluting with a gradient of 0-5% MeOH/CH2Cl2 to give the title compound and some unreacted starting material. 1H NMR (CDCl3) d 8.42 (s, 1H), 8.24 (d, J=8.4 Hz, 1H), 7.96 (d, J=8.3 Hz, 1H), 7.85 (m, 1H), 7.69 (m, 1H), 7.29 (s, 1H), 5.33 (s, 4H), 3.70 (s, 2H), 2.99 (q, J=7.2 Hz, 2H), 1.28 (t, J=7.2 Hz, 3H). CIMS (NH3, m/e, rel. int.) 489 (100) [(M+H)+ ]. Anal. Calcd for C21H17IN2O4.1/2 H2O: C, 50.72; H, 3.65; N, 5.63. Found: C, 50.53; H, 3.35; N, 5.45.

reactant | (±)-3-ethyl-1,11-dihydro-3-hydroxy-3H,13H-furo[3',4':6,7]indolizino[1,2-b]quinolin-13-one | 1.00 mmol, 320 mg | C(C)C1(OCC=2C(N3CC=4C(=NC=5C=CC=CC5C4)C3=CC21)=O)O | C19H16N2O3
reactant | diisobutylaluminum hydride | 1.0M, 1.10 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | iodoacetic anhydride | 1.50 mmol, 530 mg | ICC(=O)OC(CI)=O | C4H4I2O3
reactant | MeOH | 10 mL | CO | CH4O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 8-[[(Iodoacetyl)oxy]methyl]-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one | ICC(=O)OCC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)=O)=O | C21H17IN2O4
